### PR TITLE
[Merged by Bors] - chore: generalise `div_le_div` to groups with zero

### PR DESCRIPTION
**Pull request by YaelDillies**
... and lemmas around

---

- [x] depends on: #18958

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Field/Basic.lean [hunk 1]
```diff
@@ -195,36 +174,39 @@ lemma div_lt_div_of_pos_left (ha : 0 < a) (hc : 0 < c) (h : c < b) : a / b < a /
...
-theorem div_lt_div_right (hc : 0 < c) : a / c < b / c ↔ a < b :=
-  lt_iff_lt_of_le_iff_le <| div_le_div_right hc
+@[deprecated div_lt_div_iff_of_pos_right (since := "2024-11-12")]
+theorem div_lt_div_right (hc : 0 < c) : a / c < b / c ↔ a < b := div_lt_div_iff_of_pos_right hc
 
-theorem div_lt_div_left (ha : 0 < a) (hb : 0 < b) (hc : 0 < c) : a / b < a / c ↔ c < b := by
-  simp only [div_eq_mul_inv, mul_lt_mul_left ha, inv_lt_inv₀ hb hc]
+@[deprecated div_lt_div_iff_of_pos_left (since := "2024-11-13")]
+theorem div_lt_div_left (ha : 0 < a) (hb : 0 < b) (hc : 0 < c) : a / b < a / c ↔ c < b :=
+  div_lt_div_iff_of_pos_left ha hb hc
```
Comment (j-loreaux) [inline Mathlib/Algebra/Order/Field/Basic.lean:185]: I'm very confused about what I'm reading here. You deprecate a lemma, but then you use it to prove the lemma which is supposed to take it's place? Or am I missing some namespace somewhere?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Field/Basic.lean:185]: No, I rename a lemma, but because it's now in another file I deprecate the old lemma in place and use the new lemma to prove it (to show the type really hasn't changed)

Comment (j-loreaux) [reply Mathlib/Algebra/Order/Field/Basic.lean:185]: oh sorry :facepalm: I was reading it backwards.

**Comment by urkud** [comment]
Thanks! :tada:
bors merge

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean [hunk 2]
```diff
@@ -1677,6 +1698,38 @@ lemma zpow_eq_one_iff_right₀ (ha₀ : 0 ≤ a) (ha₁ : a ≠ 1) {n : ℤ} : a
...
+  rw [div_eq_mul_inv, div_eq_mul_inv]
+  exact mul_le_mul hac ((inv_le_inv₀ (hd.trans_le hdb) hd).2 hdb)
+    (inv_nonneg.2 <| hd.le.trans hdb) hc
+
+@[gcongr]
+lemma div_lt_div₀ (hac : a < c) (hdb : d ≤ b) (hc : 0 ≤ c) (hd : 0 < d) : a / b < c / d := by
+  rw [div_eq_mul_inv, div_eq_mul_inv]
+  exact mul_lt_mul hac ((inv_le_inv₀ (hd.trans_le hdb) hd).2 hdb) (inv_pos.2 <| hd.trans_le hdb) hc
+
+/-- See -/
```
Comment (adomani) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1727]: I see...  :smile:

Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1727]: 🙈

Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1727]: Fixing this in #19197
